US08648066B2
3-{[(3R)-3-aminopyrrolidin-1-yl]sulfonyl}-5-[4-(6,6,7-trimethyl-5,6-dihydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]pyridin-2-amine.
Prepared as in example 5 using (R)-tert-butyl 1-(2-amino-5-bromopyridin-3-ylsulfonyl)pyrrolidin-3-ylcarbamate (reagent preparation 25) and [4-(6,6,7-trimethyl-5,6-dihydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]boronic acid (reagent preparation 23) in step 1 and BOC group deprotection. 1H NMR (400 MHz, d6-DMSO) δ 8.54 (s, 1H), 8.37 (s, 1H), 8.01 (d, 1H), 7.57 (d, 1H), 7.48 (dd, 1H), 7.02 (d, 1H), 6.76 (s, 2H), 6.13 (d, 1H), 4.62 (s, 2H), 4.33 (s, 2H), 3.84 (s, 2H), 3.44-3.20 (m, 3H), 2.89 (d, 1H), 2.69 (s, 2H), 1.88 (d, 5H), 1.53 (s, 1H), 0.92 (s, 6H); MS (ES) for C29H35N7O3S: 562.2 (MH+).

reactant | (R)-tert-butyl 1-(2-amino-5-bromopyridin-3-ylsulfonyl)pyrrolidin-3-ylcarbamate | NC1=NC=C(C=C1S(=O)(=O)N1C[C@@H](CC1)NC(OC(C)(C)C)=O)Br | C14H21BrN4O4S
reactant | [4-(6,6,7-trimethyl-5,6-dihydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]boronic acid | CC1(CC=2C(=NC=NC2C=C1C)N1CCOC2=C(C1)C=C(C=C2)B(O)O)C | C20H24BN3O3
product | 3-{[(3R)-3-aminopyrrolidin-1-yl]sulfonyl}-5-[4-(6,6,7-trimethyl-5,6-dihydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]pyridin-2-amine | N[C@H]1CN(CC1)S(=O)(=O)C=1C(=NC=C(C1)C=1C=CC2=C(CN(CCO2)C2=NC=NC=3C=C(C(CC23)(C)C)C)C1)N | C29H35N7O3S
